US08211908B2
To a solution of 30 mg of (5-(3-thienyl)isoxazol-3-yl)methanol in 5 mL of dichloromethane, 84 mg of Dess-Martin periodinane was added under cooling with ice, and the mixture was stirred at room temperature for 1 hour 30 minutes. Thereto was further added 40 mg of Dess-Martin periodinane, and the mixture was stirred at room temperature for 1 hour 30 minutes. Diethyl ether was added to the reaction mixture, the insoluble substance was filtered off, and the solvent was distilled off under reduced pressure to obtain 30 mg of 5-(3-thienyl)isoxazole-3-carbaldehyde as a yellow solid.

reactant | (5-(3-thienyl)isoxazol-3-yl)methanol | 30 mg | S1C=C(C=C1)C1=CC(=NO1)CO | C8H7NO2S
reactant | Dess-Martin periodinane | 84 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin periodinane | 40 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-(3-thienyl)isoxazole-3-carbaldehyde | 30 mg | S1C=C(C=C1)C1=CC(=NO1)C=O | C8H5NO2S
